2109-02-04 00:45:00 Physician Resident Progress Note
Chief Complaint: OUTPATIENT CARDIOLOGIST:  Dr [**Last Name (STitle) **], [**Location (un) 2408**]
   Cardiology
   .
   PCP:[**Name10 (NameIs) **] [**First Name8 (NamePattern2) **] [**Name (STitle) 13964**]
   .
   CHIEF COMPLAINT: respiratory distress
   24 Hour Events:
 EKG - At [**2109-2-2**] 09:40 AM
 OR SENT - At [**2109-2-2**] 11:22 AM
 ARTERIAL LINE - START [**2109-2-2**] 01:47 PM
 OR RECEIVED - At [**2109-2-2**] 01:47 PM
 MULTI LUMEN - START [**2109-2-2**] 01:48 PM
 INVASIVE VENTILATION - START [**2109-2-2**] 01:50 PM
 INVASIVE VENTILATION - STOP [**2109-2-2**] 04:00 PM
   .
   HISTORY OF PRESENTING ILLNESS:72M h/o CAD s/p MI s/p CABG (6), systolic
   CHF (EF 15%) s/p ICD, atrial fibrillation, diabetes mellitus admitted,
   sleep apnea on BIPAP to SICU from OSH([**Location (un) 2408**]) with confusion s/p fall
   found on Head CT to have subdural hematoma s/p evacuation/burr hole. On
   arrival was in afib managed with IV metoprolol given NPO and on BIPAP
   s/p extubation post burrhole/evacuation. Cards consult for assitance
   with cardiac management given hx, with assessment that there was no
   evidence CHF/active ischemia and to continue cards meds (plavix/asa
   were being held given head bleed. Had been holding his lasix and
   antihtn's (lisinopril 10, carvedilol 12.5) and pt received 3L IV fluids
   in OR. Overnight became more tachypneic with poor UOP received 10mg IV
   lasix an [**9-5**] 9am then another 20mg IV with only small increase in UOP
   but hypotensive to mid 80s with boluses. Noted by cards on f/u to be
   clinically volume overload consistent with CVP of 24 with Bedside Echo
   poor quality but showed Afib, stable severe LV dilation with EF 15%,
   elevated LA pressure, 1 + MR with no priors for comparison. Initial CXR
   on admission showed pulmonary congestion, repeat CXR at this point did
   not show any change. Also noted to have worsening Cr from 1.3 on
   admission to 1.9 currently. He was at this point admitted to CCU
   service for management heart failure.
   .
   On transfer to cards he was +ve 1500cc for the day with CVP 24.
   Switched to lasix gtt, with goal UOP 100-150cc/hr. He restarted his
   carvedilol although lisinopril was held given his renal failure.
   .
   On review of systems,per daughter pt had "platelet allergy in
   ambulance, hx unclear. he denies any prior history of stroke, TIA, deep
   venous thrombosis, pulmonary embolism, bleeding at the time of surgery,
   myalgias, joint pains, cough, hemoptysis, black stools or red stools.he
   denies recent fevers, chills or rigors. S/he denies exertional buttock
   or calf pain. All of the other review of systems were negative.
   .
   Cardiac review of systems is notable for absence of chest pain, dyspnea
   on exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema,
   palpitations, syncope or presyncope.
   .
   PAST MEDICAL HISTORY: DM, CAD s/p MI, CABG, Afib, CHF w/ EF 15% s/p
   ICD, sleep apnea on BIPAP
   Cardiac Risk Factors include diabetes, CAD.
   .
   HOME MEDICATIONS: ASA 81 mg, Carvedilol 12.5 mg [**Hospital1 **], Lisinopril 10 mg
   daily, Plavix 75 mg daily, Lasix 40 mg [**Hospital1 **], Zocor 40 mg q day, KCl 20
   meq daily, Prilosec 20 mg daily, MVI, Insulin Novolog 70/30
   .
   Meds on transfer:
   Furosemide 1-5 mg/hr IV DRIP INFUSION
   titrate to net NEGATIVE 50-100cc per hour
   Heparin 5000 UNIT SC TID
   Clopidogrel 75 mg PO/NG DAILY
   Phenytoin Sodium Extended 100 mg PO TID
   Ondansetron 4 mg IV Q8H:PRN nausea
   HydrALAzine 10 mg IV Q6H SBP>160
   Acetaminophen 325-650 mg PO/NG Q6H:PRN fever/pain
   Senna 1 TAB PO/NG [**Hospital1 7**]
   Docusate Sodium 100 mg PO BID
   Simvastatin 40 mg PO/NG DAILY  [**2-2**] @ 1138 View
   Omeprazole 20 mg PO DAILY
   Carvedilol 12.5 mg PO/NG [**Hospital1 7**]
   .
   ALLERGIES: NKDA
   SOCIAL HISTORY: Retired, lives with wife. In dependant of ADLs. Smoker
   in past.
   .
   FAMILY HISTORY: Noncontributory for CAD
   . .
   LABS/STUDIEs:
   TELEMETRY: AF intermittenly paced
   ECG [**2109-2-2**]: AF with intermitted ventricular pacing. LBBB in native
   beats.
   Head CT:
   1. Large lentiform predominantly hypodense extra-axial collection along
   the left cerebral hemisphere, with hyperdense rim and internal
   septations, compatible with chronic subdural hematoma. This collection
   causes substantial mass effect, including rightward subfalcine
   herniation and early left uncal herniation. Findings not changed from
   one day prior.
   2. Hypodense evolving subacute posterior right temporal lobe infarct,
   in the territory of the right MCA, unchanged.
   .
   CXR: A dual-lead pacemaker generator overlies the left upper
   hemithorax, with leads terminating in the right atrium and right
   ventricle. Median sternotomy wires are in place. Lung volumes are low.
   Bilaterally, there is perihilar vascular congestion. The heart is
   enlarged. There may be a trace right effusion, but there is no left
   pleural effusion or consolidation. There is no pneumothorax.
   IMPRESSION: Cardiomegaly and pulmonary congestion.
   .
   2D-ECHOCARDIOGRAM:  [**2109-2-3**]
   The left atrium is elongated. The right atrium is moderately dilated.
   Left ventricular wall thicknesses are normal. The left ventricular
   cavity is severely dilated. Due to suboptimal technical quality, a
   focal wall motion abnormality cannot be fully excluded. Overall left
   ventricular systolic function is severely depressed (LVEF= 15 %). The
   right ventricular cavity is moderately dilated with mild global free
   wall hypokinesis. The ascending aorta is mildly dilated. The aortic
   valve leaflets (3) are mildly thickened. No aortic regurgitation is
   seen. The mitral valve leaflets are moderately thickened. Mild (1+)
   mitral regurgitation is seen. [Due to acoustic shadowing, the severity
   of mitral regurgitation may be significantly UNDERestimated.] The left
   ventricular inflow pattern suggests a restrictive filling abnormality,
   with elevated left atrial pressure. There is a very small pericardial
   effusion.
   .
   LABORATORY DATA:
   See below.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2109-2-3**] 12:31 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Dilantin - [**2109-2-3**] 09:00 AM
   Furosemide (Lasix) - [**2109-2-3**] 11:10 AM
   Metoprolol - [**2109-2-3**] 11:28 AM
   Heparin Sodium (Prophylaxis) - [**2109-2-3**] 10:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-4**] 12:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 114 (93 - 124) bpm
   BP: 131/86(95) {85/56(69) - 131/88(98)} mmHg
   RR: 28 (12 - 37) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
    CVP: 17 (16 - 24)mmHg
   Mixed Venous O2% Sat: 51 - 51
   Total In:
                                                                  1,743 mL
                                                                     14 mL
   PO:
                                                                  1,240 mL
   TF:
   IVF:
                                                                    503 mL
                                                                     14 mL
   Blood products:
   Total out:
                                                                  1,049 mL
                                                                    200 mL
   Urine:
                                                                  1,049 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    694 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 99%
   ABG: 7.42/50/34/31/6
   Physical Examination
   Tele: V paced with frequent PVCs
   Tc: 97 HR: 102 BP:97/78 RR: 28
   O2: 96 % on bipap with CVP: 20
   Gen: plethoric, bipap in place
   Eyes: R>L pupil, R pupil asymmetric and deviated down and to right [**12-25**]
   traumatic injury
   CV: R IJ catheter in place, full neck veins,
   Irregularly irregular, s1/s2. No murmurs, rubs, clicks, or gallops.
   Full distal pulses bilaterally.
   LUNGS: mild crackles BB
   ABD: NABS. Soft, NT, ND, obese
   SKIN:staples in place on L scalp
   NEURO: Disoriented to place, time, oriented to person. Can follow
   commands.
   PSYCH: Mood and affect were appropriate
   Labs / Radiology
   293 K/uL
   14.7 g/dL
   100 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.8 mEq/L
   62 mg/dL
   98 mEq/L
   138 mEq/L
   48.3 %
   16.7 K/uL
        [image002.jpg]
                             [**2109-2-2**]  10:00 AM
                             [**2109-2-2**]  11:00 AM
                             [**2109-2-2**]  12:48 PM
                             [**2109-2-2**]  03:54 PM
                             [**2109-2-2**]  06:10 PM
                             [**2109-2-3**]  12:55 AM
                             [**2109-2-3**]  11:40 AM
                             [**2109-2-3**]  09:48 PM
                             [**2109-2-4**]  12:13 AM
                             [**2109-2-4**]  12:31 AM
   WBC
   19.8
   16.7
   Hct
   43
   41.4
   45.4
   48.3
   Plt
   289
   293
   Cr
   1.8
   1.8
   1.9
   2.1
   TCO2
   26
   30
   34
   Glucose
   185
   118
   87
   125
   200
   355
   100
   Other labs: PT / PTT / INR:14.0/25.9/1.2, CK / CKMB /
   Troponin-T:85/2/0.02, Differential-Neuts:82.3 %, Lymph:9.8 %, Mono:7.0
   %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, Albumin:3.5 g/dL, Ca++:9.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
   .
   ASSESSMENT AND PLAN: 72M h/o CAD s/p MI s/p CABG (6), systolic CHF (EF
   15%) s/p ICD, atrial fibrillation s/p burr hole/evacuation for subdural
   hematoma with development volume overload clinically although no change
   on CXR. Volume overload likely [**12-25**] IV infusion with pt LOS +ve 1L in
   setting of Afib with poor forward flow.
   .
   # Volume Overload: Postive 1500cc on transfer to cards,800cc
   lasix GTT goal UOP 100-150cc/hr, goal negative 1L.
   If unable to tolerate BP wise consider milrinone for ionotrope assisted
   diuresis. Avoid dobutamine given tachycardia.
   [**Hospital1 7**] lytes
   daily weights.
   monitor 02 sats.
   -wean BIPAP
   .
   # PUMP: AICD with EF with 15-20%.
   f/u prior echo from OSH.
   -continue diuresis.
   .
   # # RHYTHM:Afib. Continue carvedilol 12.5 [**Hospital1 7**]
   -unclear why not on coumadin. F/u with o/p cardiologist
   Continue telemetry
   .
   # CORONARIES:CAD s/p CABG
   f/u OSH hospital records for anatomy
   EKG/CE not consistent with ischemia on admission.
   restart ASA, plavix in am, continue simvastatin 40, carvedilol
   .
   #  Acute on Chronic renal failure: FENA 0.8 consistent with prerenal
   from poor forward flow.
   Continue diuresis with lasix
   check 9pm electrolytes
   Continue to trend Cr.
   Consider renal consult if not improving in am.
   .
   # subdural hematoma s/p burrhole/evacuation.
   Per daughter [**Name (NI) 13965**] in am, sundowns
   -serial neuro checks
   -avoid benzo's, frequent reorientation
   restarting ASA/plavix in am
   appreciate neuro recs.
   .
   # Sleep Apnea: CPAP o/n
   .
   COMM: Wife: [**Name (NI) **] [**Name (NI) 13966**]: [**Telephone/Fax (1) 13967**].
   .
   DISPO: CCU for now
   ICU Care
   Lines:
   Multi Lumen - [**2109-2-2**] 01:48 PM
   : FEN:diabetic, heart healthy, low sodium
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with pneumoboots.
   -Bowel regimen with senna/colace
   .
   CODE: Full Code
   .
   AM

2109-02-04 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2109-2-3**] 12:34 PM
   Became increasingly SOB. Had been on bipap unable to tolerate was put
   on face mask
   Apneic episodes 40-45 seconds, tachypneic to 50s with grunting.
   VBG showed C02 50 from 55 not fatiguing.
   Repeat Head CT negative for acute process.
   EKG showed new TWI in V1 to V5 in setting of V pacing. CE 0.03 to 0.02
   Resumed bipap, UOP increased, respirations improved.
   DD: central process, s/p hematoma, PE
   central sleep apnea
   hx CAD breathing fast demand ischemia
   ? PE
   Phenytoin 8.2 (subtherapeutic [**9-11**]).
   .
   WBC: 16.7 trending down from 19.8
   UOP improved, lasix held by nursing at 3am
   Neuro recs, no plavix/ASA x 3 days. Switching from phenytoin to keppra.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2109-2-3**] 12:31 PM
   Infusions:
   Other ICU medications:
   Dilantin - [**2109-2-3**] 09:00 AM
   Furosemide (Lasix) - [**2109-2-3**] 11:10 AM
   Metoprolol - [**2109-2-3**] 11:28 AM
   Heparin Sodium (Prophylaxis) - [**2109-2-3**] 10:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-4**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 102 (93 - 124) bpm
   BP: 114/88(94) {95/56(69) - 131/94(98)} mmHg
   RR: 28 (12 - 37) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
    CVP: 10 (8 - 24)mmHg
   Mixed Venous O2% Sat: 51 - 51
   Total In:
                                                                  1,743 mL
                                                                    204 mL
   PO:
                                                                  1,240 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    503 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,049 mL
                                                                  1,820 mL
   Urine:
                                                                  1,049 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    694 mL
                                                                 -1,616 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 96%
   ABG: 7.42/50/34/34/6
   Physical Examination
   Tele: V paced with frequent PVCs
   O2: On facee mask, CVP 10
   Gen: less plethoric,
   Eyes: R>L pupil, R pupil asymmetric and deviated down and to right [**12-25**]
   traumatic injury
   CV: R IJ catheter in place,
   Irregularly irregular, s1/s2. No murmurs, rubs, clicks, or gallops.
   Full distal pulses bilaterally.
   LUNGS: lungs improved,no grunting, use accessory muscles
   ABD: NABS. Soft, NT, ND, obese
   SKIN:staples in place on L scalp
   NEURO:AO to person, place, oriented to month, date.
   extremities cool, pulses dopplerable, no edema
   Labs / Radiology
   263 K/uL
   13.9 g/dL
   43 mg/dL
   1.9 mg/dL
   34 mEq/L
   3.8 mEq/L
   63 mg/dL
   97 mEq/L
   139 mEq/L
   44.3 %
   16.5 K/uL
        [image002.jpg]
                             [**2109-2-2**]  11:00 AM
                             [**2109-2-2**]  12:48 PM
                             [**2109-2-2**]  03:54 PM
                             [**2109-2-2**]  06:10 PM
                             [**2109-2-3**]  12:55 AM
                             [**2109-2-3**]  11:40 AM
                             [**2109-2-3**]  09:48 PM
                             [**2109-2-4**]  12:13 AM
                             [**2109-2-4**]  12:31 AM
                             [**2109-2-4**]  04:18 AM
   WBC
   19.8
   16.7
   16.5
   Hct
   43
   41.4
   45.4
   48.3
   44.3
   Plt
   [**Telephone/Fax (3) 13970**]
   Cr
   1.8
   1.8
   1.9
   2.1
   1.9
   TropT
   0.04
   0.02
   TCO2
   26
   30
   34
   Glucose
   118
   87
   125
   200
   355
   100
   43
   Other labs: PT / PTT / INR:14.6/27.1/1.3, CK / CKMB /
   Troponin-T:115/2/0.02, Differential-Neuts:82.3 %, Lymph:9.8 %, Mono:7.0
   %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, Albumin:3.8 g/dL, Ca++:9.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
   ASSESSMENT AND PLAN: 72M h/o CAD s/p MI s/p CABG (6), systolic CHF (EF
   15%) s/p ICD, atrial fibrillation s/p burr hole/evacuation for subdural
   hematoma with development volume overload clinically although no change
   on CXR. Volume overload likely [**12-25**] IV infusion with pt LOS +ve 1L in
   setting of Afib with poor forward flow.
   .
   # Volume Overload: Postive 1500cc on transfer to cards,800cc
   lasix GTT goal UOP 100-150cc/hr, goal negative 1L.
   If unable to tolerate BP wise consider milrinone for ionotrope assisted
   diuresis. Avoid dobutamine given tachycardia.
   [**Hospital1 7**] lytes
   daily weights.
   monitor 02 sats.
   -wean BIPAP
   .
   # PUMP: AICD with EF with 15-20%.
   f/u prior echo from OSH.
   -continue diuresis.
   .
   # # RHYTHM:Afib. Continue carvedilol 12.5 [**Hospital1 7**]
   -unclear why not on coumadin. F/u with o/p cardiologist
   Continue telemetry
   .
   # CORONARIES:CAD s/p CABG
   f/u OSH hospital records for anatomy
   EKG/CE not consistent with ischemia on admission.
   restart ASA, plavix in am, continue simvastatin 40, carvedilol
   .
   #  Acute on Chronic renal failure: FENA 0.8 consistent with prerenal
   from poor forward flow.
   Continue diuresis with lasix
   check 9pm electrolytes
   Continue to trend Cr.
   Consider renal consult if not improving in am.
   .
   # subdural hematoma s/p burrhole/evacuation.
   Per daughter [**Name (NI) 13965**] in am, sundowns
   -serial neuro checks
   -avoid benzo's, frequent reorientation
   restarting ASA/plavix in am
   appreciate neuro recs.
   .
   # Sleep Apnea: CPAP o/n
   .
   COMM: Wife: [**Name (NI) **] [**Name (NI) 13966**]: [**Telephone/Fax (1) 13967**].
   .
   DISPO: CCU for now
   ICU Care
   Lines:
   Multi Lumen - [**2109-2-2**] 01:48 PM
   : FEN:diabetic, heart healthy, low sodium
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with pneumoboots.
   -Bowel regimen with senna/colace
   .
   CODE: Full Code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   Per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Decompensation in baseline severe chronic systolic congestive heart
   failure. Managed with diuresis - overall minus 1.6 liters
   intermittent CS lead capture - will need to interrogate device.
   Tolerating simple face mask of 4 liters
   continue to diurese today
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**],MD
   on:[**2109-2-4**] 08:40 ------

2109-02-05 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2109-2-4**] 08:59 AM
 EKG - At [**2109-2-4**] 07:00 PM
   Overnight Events:
   - OSH records arrived re: previous cardiac history; [**Doctor First Name 11273**] has them
   - ~1645: pt became more dyspneic and agitated; tried restarting lasix
   gtt; got ABG but values were skewed because O2 was set too low at the
   time; CXR did not show any significant fluid overload
   - ~1815: pt continue with dyspnea and agitation; gave lasix bolus
   - ~1900: continued symptoms, also tachycardic and CVP up 10 ~16-18; EKG
   with no significant changes: ?afib with intermittent v-pacing; spoke
   with night nurse from last night and ended up increasing lasix bolus
   and giving 500 mg IV diuril (worked last night)
   - EP came to interrogate PM but pt was SOB, so will come back tomorrow
   - neurosurgery put in orders: start plavix 3 days post-procedure
   (tomorrow); switching from dilantin to keppra
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2109-2-3**] 12:31 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2109-2-4**] 08:00 AM
   Furosemide (Lasix) - [**2109-2-4**] 06:30 PM
   Heparin Sodium (Prophylaxis) - [**2109-2-4**] 10:00 PM
   Dextrose 50% - [**2109-2-5**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-5**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 98 (94 - 125) bpm
   BP: 89/67(72) {84/58(64) - 123/92(106)} mmHg
   RR: 34 (18 - 42) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
    CVP: 9 (9 - 18)mmHg
   Total In:
                                                                  1,023 mL
                                                                    122 mL
   PO:
                                                                    640 mL
   TF:
   IVF:
                                                                    383 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  3,306 mL
                                                                  1,940 mL
   Urine:
                                                                  3,306 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,283 mL
                                                                 -1,818 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 95%
   ABG: 7.46/42/64/35/5
   Physical Examination
   Gen: Alert, NAD, Oriented to person and month (knows he
s in the
   hospital with prompting, not oriented to year)
   Eyes: R>L pupil, R pupil asymmetric and deviated down (chronic per
   previous notes)
   CV: S1S2, No m/r/g appreciated. Faint HS.
   LUNGS: Breathing somewhat rapidly. Crackles
-way up bilaterally
   ABD: NABS. Soft, NT, ND, obese
   SKIN:staples in place on L scalp
   EXT: SCD
s in place. No significant LE edema noted.
   NEURO: Oriented as above, able to move all four extremities
   spontaneously
   Labs / Radiology
   266 K/uL
   14.1 g/dL
   60 mg/dL
   1.8 mg/dL
   35 mEq/L
   3.7 mEq/L
   71 mg/dL
   95 mEq/L
   139 mEq/L
   44.4 %
   11.7 K/uL
        [image002.jpg]
                             [**2109-2-2**]  06:10 PM
                             [**2109-2-3**]  12:55 AM
                             [**2109-2-3**]  11:40 AM
                             [**2109-2-3**]  09:48 PM
                             [**2109-2-4**]  12:13 AM
                             [**2109-2-4**]  12:31 AM
                             [**2109-2-4**]  04:18 AM
                             [**2109-2-4**]  02:31 PM
                             [**2109-2-4**]  05:11 PM
                             [**2109-2-5**]  03:33 AM
   WBC
   19.8
   16.7
   16.5
   11.7
   Hct
   41.4
   45.4
   48.3
   44.3
   44.4
   Plt
   [**Telephone/Fax (3) 13977**]66
   Cr
   1.8
   1.8
   1.9
   2.1
   1.9
   1.9
   1.8
   TropT
   0.04
   0.02
   TCO2
   34
   31
   Glucose
   200
   355
   100
   43
   214
   60
   Other labs: PT / PTT / INR:14.6/27.1/1.3, CK / CKMB /
   Troponin-T:115/2/0.02, Differential-Neuts:71.1 %, Lymph:18.5 %,
   Mono:8.9 %, Eos:0.4 %, Lactic Acid:1.9 mmol/L, Albumin:3.8 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   72M h/o CAD s/p MI s/p CABG, systolic CHF (EF 15%) s/p ICD, atrial
   fibrillation s/p burr hole/evacuation for subdural hematoma with
   development volume overload clinically although no change on CXR.
   Volume overload likely [**12-25**] IV fluids during surgery in the setting of
   having nodal blocking [**Doctor Last Name **] and lasix held.
   .
   # CHF/Fluid Overload: Last night, the patient became agitated,
   tachypnic, and tachycardic. CVP was noted to be elevated to ~18 at that
   time as well. This was treated with lasix gtt, lasix bolus, and diuril.
   Once the patient
s UOP increased, his symptoms improved.
   - continue lasix gtt at this time with goal UOP of 50-100 cc/hr
   - goal I/O for the day is to be at least -1 to 1.5L (pt basically has
   already reached this goal for the day)
   - continue to monitor CVP
   - [**Hospital1 7**] lytes during diuresis
   .
   #  Atrial Fibrillation: Tachycardia likely contributing to patient
   symptoms, resulting in poor forward flow and further fluid overload.
   - increasing carvedilol to 25 mg [**Hospital1 7**]
   - d/w outpt cardiologist why pt is not on Coumadin and how long he has
   had a.fib
   - d/w neuro sx when Coumadin can be started
   .
   # CORONARIES: CAD s/p CABG. Pt denies any chest pain at this time.
   - f/u OSH hospital records for anatomy
   - if no recent PCI, can consider d/c
ing plavix
   - continue simvastatin, carvedilol
   - restart ASA when ok with neuro sx
   .
   #  Acute on Chronic renal failure: FENA 0.8 consistent with prerenal
   from poor forward flow. Creatinine improving this morning in the
   setting of significant diuresis overnight.
   - continue diuresis
   - continue to trend creatinine
   - [**Hospital1 7**] lytes during diuresis
   .
   # DM: Pt noted to have decreased fasting sugars in the mornings. Sugars
   in the evening are not noted to be low.
   - decreasing evening insulin dose
   .
   # Subdural Hematoma s/p Burrhole/Evacuation: Pt with some sundowning
   overnight. Oriented to person and month (not year). Knows he
s in the
   hospital only with significant prompting. Review of previous notes
   shows that pt has a history of sundowning.
   - continue to monitor neuro status
   - neuro checks q4 hrs
   - appreciate neuro sx input
   .
   # Sleep Apnea: BiBap overnight and when napping
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-2-2**] 01:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-02-06 06:54:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -increased carvedilol to 25 mg PO BID
   -per neurosurg, Plavix okay now if indicated
   -no heparin or Coumadin for 3 weeks from today
   -neurosurgey recs: improved mental status; CT [**2-4**] stable; staples x 10
   days total; Keppra x 7 days total 1000 mg [**Hospital1 7**]; neuro checks Q4H
   -repeat CT head in a.m.; f/u with neurosurgery in [**12-26**] weeks (Dr.
   [**First Name (STitle) 478**]
   -no EP recs
   -per wife, does not have stents. No evidence of stents in cardiology
   records
   -12 p.m. Noted to be more agitated, tachypneic, decreasing urine
   output. CXR, EKG, ABG done. ABG was 7.52/39/134 on 4L NC. Started lasix
   gtt and gave chlorthiazide 500 mg IV x 1
   -10 p.m. Patient pulled at central line and dislodged one stitch. CXR
   showed line in SVC (maybe a little more proximal?)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2109-2-3**] 12:31 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-2-5**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-6**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 99 (89 - 107) bpm
   BP: 110/81(89) {88/43(57) - 120/88(92)} mmHg
   RR: 38 (11 - 41) insp/min
   SpO2: 74%
   Heart rhythm: V Paced
    CVP: 15 (6 - 20)mmHg
   Total In:
                                                                    864 mL
                                                                     69 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                    359 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                    380 mL
   Urine:
                                                                  4,090 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,226 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 74%
   ABG: 7.52/39/134/38/8
   Physical Examination
   Gen: Alert, NAD, Oriented to person and month (knows he
s in the
   hospital with prompting, not oriented to year)
   Eyes: R>L pupil, R pupil asymmetric and deviated down (chronic per
   previous notes)
   CV: S1S2, No m/r/g appreciated. Faint HS.
   LUNGS: Breathing somewhat rapidly. Crackles
-way up bilaterally
   ABD: NABS. Soft, NT, ND, obese
   SKIN:staples in place on L scalp
   EXT: SCD
s in place. No significant LE edema noted.
   NEURO: Oriented as above, able to move all four extremities
   spontaneously
   Labs / Radiology
   214 K/uL
   13.0 g/dL
   99 mg/dL
   1.6 mg/dL
   38 mEq/L
   3.7 mEq/L
   74 mg/dL
   92 mEq/L
   139 mEq/L
   42.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2109-2-3**]  09:48 PM
                             [**2109-2-4**]  12:13 AM
                             [**2109-2-4**]  12:31 AM
                             [**2109-2-4**]  04:18 AM
                             [**2109-2-4**]  02:31 PM
                             [**2109-2-4**]  05:11 PM
                             [**2109-2-5**]  03:33 AM
                             [**2109-2-5**]  02:05 PM
                             [**2109-2-5**]  02:34 PM
                             [**2109-2-6**]  02:05 AM
   WBC
   16.7
   16.5
   11.7
   10.1
   Hct
   48.3
   44.3
   44.4
   42.3
   Plt
   293
   263
   266
   214
   Cr
   2.1
   1.9
   1.9
   1.8
   1.7
   1.6
   TropT
   0.04
   0.02
   0.02
   TCO2
   34
   31
   33
   Glucose
   100
   43
   214
   60
   179
   183
   99
   Other labs: PT / PTT / INR:15.5/41.4/1.4, CK / CKMB /
   Troponin-T:72/2/0.02, Differential-Neuts:67.1 %, Lymph:21.8 %,
   Mono:10.1 %, Eos:0.5 %, Lactic Acid:1.9 mmol/L, Albumin:3.8 g/dL,
   Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   72M h/o CAD s/p MI s/p CABG, systolic CHF (EF 15%) s/p ICD, atrial
   fibrillation s/p burr hole/evacuation for subdural hematoma with
   development volume overload clinically although no change on CXR.
   Volume overload likely [**12-25**] IV fluids during surgery in the setting of
   having nodal blocking [**Doctor Last Name **] and lasix held.
   .
   # CHF/Fluid Overload: Last night, the patient became agitated,
   tachypnic, and tachycardic. CVP was noted to be elevated to ~18 at that
   time as well. This was treated with lasix gtt, lasix bolus, and diuril.
   Once the patient
s UOP increased, his symptoms improved.
   - continue lasix gtt at this time with goal UOP of 50-100 cc/hr
   - goal I/O for the day is to be at least -1 to 1.5L (pt basically has
   already reached this goal for the day)
   - continue to monitor CVP
   - [**Hospital1 7**] lytes during diuresis
   .
   #  Atrial Fibrillation: Tachycardia likely contributing to patient
   symptoms, resulting in poor forward flow and further fluid overload.
   - increasing carvedilol to 25 mg [**Hospital1 7**]
   - d/w outpt cardiologist why pt is not on Coumadin and how long he has
   had a.fib
   - d/w neuro sx when Coumadin can be started
   .
   # CORONARIES: CAD s/p CABG. Pt denies any chest pain at this time.
   - f/u OSH hospital records for anatomy
   - if no recent PCI, can consider d/c
ing plavix
   - continue simvastatin, carvedilol
   - restart ASA when ok with neuro sx
   .
   #  Acute on Chronic renal failure: FENA 0.8 consistent with prerenal
   from poor forward flow. Creatinine improving this morning in the
   setting of significant diuresis overnight.
   - continue diuresis
   - continue to trend creatinine
   - [**Hospital1 7**] lytes during diuresis
   .
   # DM: Pt noted to have decreased fasting sugars in the mornings. Sugars
   in the evening are not noted to be low.
   - decreasing evening insulin dose
   .
   # Subdural Hematoma s/p Burrhole/Evacuation: Pt with some sundowning
   overnight. Oriented to person and month (not year). Knows he
s in the
   hospital only with significant prompting. Review of previous notes
   shows that pt has a history of sundowning.
   - continue to monitor neuro status
   - neuro checks q4 hrs
   - appreciate neuro sx input
   .
   # Sleep Apnea: BiBap overnight and when napping
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-2-2**] 01:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2109-02-07 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2109-2-6**] 12:00 PM
 EKG - At [**2109-2-6**] 03:21 PM
   Successfull completion ASA desensitization
   Prehydration/mucomyst for cath
   NPO after midnight
   Urine lytes with FENA 1.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-2-6**] 01:15 PM
   Morphine Sulfate - [**2109-2-6**] 05:04 PM
   Heparin Sodium (Prophylaxis) - [**2109-2-6**] 10:15 PM
   Metoprolol - [**2109-2-6**] 10:15 PM
   Dilantin - [**2109-2-7**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-7**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 86 (86 - 114) bpm
   BP: 99/67(74) {85/47(43) - 116/91(99)} mmHg
   RR: 31 (21 - 47) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
    CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  1,203 mL
                                                                    170 mL
   PO:
                                                                    320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    883 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    300 mL
   Urine:
                                                                  1,020 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    183 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 95%
   ABG: 7.50/42/113/29/8
   Physical Examination
   GENERAL:  Oriented x3., PERRLA, CNII-XII intact, [**2-25**] muscle strengt h
   BL extremity, [**3-27**] on right
   NECK: supple, full neck veins.
   CARDIAC: distant heart sounds [**12-25**] body habitus
   LUNGS:  CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 2 + pitting edema to below the knee bilaterally
   PULSES:
   radial pulses strong
   no femoral bruits
   DP/PT dopplerable
   cornified feet bilaterally
   Labs / Radiology
   228 K/uL
   14.1 g/dL
   113 mg/dL
   2.1 mg/dL
   29 mEq/L
   4.4 mEq/L
   96 mg/dL
   98 mEq/L
   140 mEq/L
   44.1 %
   10.7 K/uL
        [image002.jpg]
                             [**2109-2-4**]  04:18 AM
                             [**2109-2-4**]  02:31 PM
                             [**2109-2-4**]  05:11 PM
                             [**2109-2-5**]  03:33 AM
                             [**2109-2-5**]  02:05 PM
                             [**2109-2-5**]  02:34 PM
                             [**2109-2-6**]  02:05 AM
                             [**2109-2-6**]  01:35 PM
                             [**2109-2-6**]  02:57 PM
                             [**2109-2-7**]  04:30 AM
   WBC
   16.5
   11.7
   10.1
   10.7
   Hct
   44.3
   44.4
   42.3
   44.1
   Plt
   263
   266
   214
   228
   Cr
   1.9
   1.9
   1.8
   1.7
   1.6
   2.2
   2.1
   TropT
   0.02
   0.02
   0.04
   TCO2
   31
   33
   34
   Glucose
   43
   [**Telephone/Fax (2) 14019**]3
   99
   146
   113
   Other labs: PT / PTT / INR:17.4/39.4/1.6, CK / CKMB /
   Troponin-T:60/2/0.04, Differential-Neuts:67.1 %, Lymph:21.8 %,
   Mono:10.1 %, Eos:0.5 %, Lactic Acid:2.6 mmol/L, Albumin:3.8 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, RESTRICTIVE
 SUBDURAL HEMORRHAGE (SDH)
   65 y/o woman with hx CAD, DM, HTN, CVA [**10-1**] s/p NSTEMI in [**Month (only) 2299**]
   presenting for ASA desensitization prior to cath. Cath was also
   deferred due to contrast induced nephropathy  with Cr 1.88 on
   readmission
   .
   # CORONARIES: CAD with cath [**9-/2108**] showing diffuse LAD and Lcx disease
   with cath deferred for NSTEMI in [**12-25**] renal failure/asa allergy
   -ASA desensitization performed without event
   -ASA 325mg daily
   -can restart labetelol today
   continue high dose statin, plavix
   -continue telemetry
   -am EKG
   .
   Renal Failure: Acute on chronic (HTN/DM) Cr 1.9, baseline 1.1 in early
   [**Month (only) **], after dye load was 1.6 [**12-25**] contrast dye load and hypertensive
   emergency.Had initially improved to 1.4 then rose again to 2.0 on [**1-5**]
   without clear additional insult.  Cr 1.88 on readmission, pt received
   prehydration, mucomyst o/n with Cr improved to 1.7. Urine lytes with
   FeNA 1.5 indicating intrinsic renal disease.  Lisinopril held as o/p
   Continue Tight BP control
   Continue prehydration/mucomyst
   continue lasix
   Avoid nephrotoxins, continue holding lisinopril
   check urine lytes.
   Trend Cr/[**Hospital1 7**] lytes on lasix
   .
   # PUMP:Echo in [**1-2**] showed diastolic CHF, EF 55%.LVH pulmonaery HTN.
   Some volume overload with pitting edema however giving gentle hydration
   in liue of cath for renoprotection.
   receiving prehydration in lieu of cath.
   -Follow fluid status/exam closely with volume being given.
   continue home lasix 20mg p.o daily
   daily exams
   .
   #rythm: sinus
   continue telemetry
   .
   #HTN: Hx HTN emergency BP's in 150s,roseHydral 10mg IV x1 now
   continue p.o hydral, norvasc,isordil. Restart labetolol
   continue to hold lisinopril , restart labetelol.
   .
   #Diabetes: On lantus, Novolog SS at home
   continue lantus, 1/2 dose while npo
   HISS/ GFS
   .
   .
   # h/o CVA: She had a large right-sided CVA in [**9-/2108**] with rehab until
   [**1-1**]. Has regained some function, mobilizing with walker.
   Resume PT on d/c.
   # Anemia:  Hct 29, baseline 33, trending down over last month. 27.
   today. Not consistent with hemodilution. Also has renal failure. Prior
   iron studies, hemolysis labs negative.
   Guiac all stools
   [**Hospital1 7**] HCT.
   ICU Care
   Nutrition:NPO for cath
   Glycemic Control:  RISS, GFS ,
 dose lantus while NPO
   -DVT ppx with heparin SC
   -Pain management with lidoderm patch to upper/lower back, oxycodone 5
   prn back pain tylenol 650 mg prn pain, neurontin 300mg q24 (renally
   dosed), ultram 50mg TID
   -Bowel regimen with senna, colace.
   .
   Consider restarting lactulose post cath
   Lines:
   20 Gauge - [**2109-2-6**] 07:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: COMM: [**Name (NI) **], [**Name (NI) 843**]: [**Name (NI) 987**]: [**Telephone/Fax (1) 14010**]
   Code status: FULL
   Disposition: to cath

2109-02-07 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2109-2-6**] 12:00 PM
 EKG - At [**2109-2-6**] 03:21 PM
   Overnight Events:
   - his CVL was removed in the morning
   - he got 5 mg metolazone in addition to 500 mg of Diuril in the
   morning, as well as a 20 mg lasix bolus
   - in the afternoon patient looked increasingly worse- skin mottled,
   perioral cyanosis, low urine output, agitated; repeat electrolytes
   showed worsening renal function; ABG looked fine with good oxygenation,
   stable pH, although lactate was elevated to 2.7; CXR looked unchanged;
   EKG and cardiac enzymes unchanged
   - we stopped his diuretics
   - after much discussion we decided to give him back some fluids
   (thinking he was intravascularly dry from overdiuresis the last two
   days); we gave him 250 cc IV bolus x2 of normal saline
   - for his respiratory agitation, he got 0.5 mg IV morphine x2
   - we changed PO metoprolol to IV given that he was too agitated to
   tolerate pos; we think better rate control will improve his perfusion,
   and stopping the diuretics may allow us to increase his BB
   - with the fluids and morphine, he calmed down, UOP increased, and his
   overall clinical status improved
   - we obtained [**State 1198**] records from an admission in [**Month (only) 25**] that showed
   he was on dig 0.125 mg and has a questionable history of AF; he has not
   been treated with coumadin in the past
   - discharge meds per that admission [**Date range (1) 14020**]/[**2108**] are as follows: Lasix
   40 po bid, K-dur 10 mEq daily, simvastatin 40 daily, glyburide 10 [**Hospital1 **],
   carvedilol 12.5 [**Hospital1 **], lisinopril 10 daily, Plavix 75 daily, omeprazole
   20 daily, aspirin 81 dialy, Novolin 70/30 ASDIR, digoxin 125 mcg daily
   - head CT was not obtained, and speech and swallow did not eval as
   patient was too agitated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-2-6**] 01:15 PM
   Morphine Sulfate - [**2109-2-6**] 05:04 PM
   Heparin Sodium (Prophylaxis) - [**2109-2-6**] 10:15 PM
   Metoprolol - [**2109-2-6**] 10:15 PM
   Dilantin - [**2109-2-7**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-7**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 86 (86 - 114) bpm
   BP: 99/67(74) {85/47(43) - 116/91(99)} mmHg
   RR: 31 (21 - 47) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  1,203 mL
                                                                    170 mL
   PO:
                                                                    320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    883 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    300 mL
   Urine:
                                                                  1,020 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    183 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 95%
   ABG: 7.50/42/113/29/8
   Physical Examination
   Gen: Alert, NAD. Wearing face mask.
   Eyes: R pupil surgical. Left pupil round and reactive to light.
   CV: Irregular. S1S2, No m/r/g appreciated.
   LUNGS: Bibasilar crackles noted anteriorly.
   ABD: +BS. Soft, NT, ND.
   SKIN :Staples in place on L scalp
   EXT: No significant LE edema noted. LE
s warm.
   NEURO: Moves all extremities. Able to follow commands. Oriented to
   person. Does not know he is a [**Hospital1 19**]. States it is [**2046-1-20**].
   Labs / Radiology
   228 K/uL
   14.1 g/dL
   113 mg/dL
   2.1 mg/dL
   29 mEq/L
   4.4 mEq/L
   96 mg/dL
   98 mEq/L
   140 mEq/L
   44.1 %
   10.7 K/uL
        [image002.jpg]
                             [**2109-2-4**]  04:18 AM
                             [**2109-2-4**]  02:31 PM
                             [**2109-2-4**]  05:11 PM
                             [**2109-2-5**]  03:33 AM
                             [**2109-2-5**]  02:05 PM
                             [**2109-2-5**]  02:34 PM
                             [**2109-2-6**]  02:05 AM
                             [**2109-2-6**]  01:35 PM
                             [**2109-2-6**]  02:57 PM
                             [**2109-2-7**]  04:30 AM
   WBC
   16.5
   11.7
   10.1
   10.7
   Hct
   44.3
   44.4
   42.3
   44.1
   Plt
   263
   266
   214
   228
   Cr
   1.9
   1.9
   1.8
   1.7
   1.6
   2.2
   2.1
   TropT
   0.02
   0.02
   0.04
   TCO2
   31
   33
   34
   Glucose
   43
   [**Telephone/Fax (2) 14019**]3
   99
   146
   113
   Other labs: PT / PTT / INR:17.4/39.4/1.6, CK / CKMB /
   Troponin-T:60/2/0.04, Differential-Neuts:67.1 %, Lymph:21.8 %,
   Mono:10.1 %, Eos:0.5 %, Lactic Acid:2.6 mmol/L, Albumin:3.8 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   72M h/o CAD s/p MI s/p CABG, systolic CHF (EF 15%) s/p ICD, atrial
   fibrillation s/p burr hole/evacuation for subdural hematoma with
   development volume overload clinically although no change on CXR.
   Volume overload likely [**12-25**] IV fluids during surgery in the setting of
   having nodal blocking [**Doctor Last Name **] and lasix held.
   .
   # CHF/Fluid Overload: Likely overdiuresed yesterday morning, as
   evidence by cold, clammy, mottled extremities and bump in creatinine.
   Responded well to fluid boluses as well as morphine for respiratory
   distress.
   - hold diuretics and fluids at this point and monitor I/O
   - start digoxin
   - continue to monitor fluid and respiratory status
   - consider central access if we feel we need a better measurement of
   his fluid status
   - consider repeat echo to evaluate cardiac function
   .
   # Atrial Fibrillation: Tachycardia likely contributing to patient
   symptoms, resulting in poor forward flow and further fluid overload.
   - continue metoprolol for rate control, uptitrate as needed
   - no Coumadin for now; can consider this in 3 weeks (after neurosurg
   f/u)
   - attempt to touch base with neurosurgery re: anticoagulation
   .
   # CORONARIES: CAD s/p CABG. Pt denies any chest pain at this time.
   - No apparent h/o PCI, so can change Plavix to aspirin (if okay from
   neurosurgical perspective)
   - continue simvastatin, metoprolol
   .
   #  Acute on Chronic renal failure: Cr 2.1 today, recent baseline of
   1.2. Likely prerenal from poor forward flow with superimposed
   overdiuresis.
   - continue to trend creatinine
   - holding further diuresis, as above
   - consider urine lytes if creatinine does not improve
   .
   # DM: Fasting hypoglycemia has resolved with decreased insulin dosing.
   - continue insulin NPH + Humalog sliding scale at current dose
   .
   # Subdural Hematoma s/p Burrhole/Evacuation: Neurologic exam stable.
   - neuro checks q4 hrs
   - appreciate neuro sx input
   - neurosurg f/u in [**12-26**] weeks as outpatient
   - per neurosurg,  continue Keppra for total 7 days. Staples will come
   out after total 10 days
   - repeat head CT today
   .
   # Sleep Apnea: BiBAP overnight and when napping
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-2-6**] 07:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-02-08 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   He had a repeat head CT showing no change (persistent left subdural
   extra axial collection with some residual acute hemorrhage.
    plavix were discontinued.
   He was evaluated by speech and swallow and placed on a thin
   liquid/ground solid diet, crushed/pureed pills and supervised feeding
   and started to take p.o\
   He was having occaissional PVCs with some runs of NSVT. His IV
   metoprolol was changed to p.o and increased in dose from 50q8 to 75 TID
   with HR ranging in the 90s from the 100s the day before. He was also
   restarted on digoxin 0.125.
   His UOP had been about 50cc/hr  over the day, but then trailed off
   around midnight so he received 250 ml boluses x 2, with UOP 230cc only
   since midnight, approximately 20cc/hr.
   Omeprazole was changed to lansoprazole
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2109-2-7**] 04:18 PM
   Heparin Sodium (Prophylaxis) - [**2109-2-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-8**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 108 (86 - 108) bpm
   BP: 119/77(84) {43/26(30) - 121/89(104)} mmHg
   RR: 36 (10 - 41) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 11.6 kg (admission): 112.1 kg
             Total In:
                                                                    270 mL
                                                                    500 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    150 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    230 mL
   Urine:
                                                                  1,415 mL
                                                                    230 mL
   L
   Stool:
   [**Location 14040**] 3.1L
   Balance:
                                                                 -1,145 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 95%
   ABG: 7.42/46/56/28/4
   PaO2 / FiO2: 80
   Physical Examination
   Bipap in place
   Oriented to person, disoriented to place and time, able to follow
   commands
   Continues to have [**Last Name (un) **] [**Doctor Last Name **] respirations
   Lungs clear anteriorly. Using accessory muscles to breath.
   CVS:irregular
   Peripheral pulses palpable, extremities warm well perfused, trace edema
   Concentrated urine.
   Staples in place on L scalp
   Labs / Radiology
   254 K/uL
   15.4 g/dL
   85 mg/dL
   2.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   112 mg/dL
   98 mEq/L
   141 mEq/L
   49.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2109-2-5**]  03:33 AM
                             [**2109-2-5**]  02:05 PM
                             [**2109-2-5**]  02:34 PM
                             [**2109-2-6**]  02:05 AM
                             [**2109-2-6**]  01:35 PM
                             [**2109-2-6**]  02:57 PM
                             [**2109-2-7**]  04:30 AM
                             [**2109-2-7**]  09:27 AM
                             [**2109-2-7**]  09:57 PM
                             [**2109-2-8**]  04:02 AM
   WBC
   11.7
   10.1
   10.7
   12.2
   Hct
   44.4
   42.3
   44.1
   49.6
   Plt
   266
   214
   228
   254
   Cr
   1.8
   1.7
   1.6
   2.2
   2.1
   2.8
   2.6
   TropT
   0.02
   0.04
   TCO2
   33
   34
   31
   Glucose
   60
   179
   183
   99
   146
   113
   152
   85
   Other labs: PT / PTT / INR:18.8/38.9/1.7, CK / CKMB /
   Troponin-T:60/2/0.04, ALT / AST:59/224, Alk Phos / T Bili:120/1.3,
   Differential-Neuts:67.1 %, Lymph:21.8 %, Mono:10.1 %, Eos:0.5 %, Lactic
   Acid:2.3 mmol/L, Albumin:3.8 g/dL, LDH:496 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.7 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, RESTRICTIVE
 SUBDURAL HEMORRHAGE (SDH)
   72 year old man s/p CABG, LVEF = 15%, biventricular pacemaker
 ICD and
   recent subdural hematoma evacuation developed volume overload which
   responded to initial diuresis, but due to hypotension and cool clammy
   extremities, he required a fluid bolus to correct the volume
   depletion.    He is now improved but requiring CPAP for oyxygenation
   due to underlying sleep apnea.  Will continue to observe his mental
   status.
   72M h/o CAD s/p MI s/p CABG, systolic CHF (EF 15%) s/p ICD, atrial
   fibrillation s/p burr hole/evacuation for subdural hematoma with
   development volume overload clinically although no change on CXR.
   Volume overload likely [**12-25**] IV fluids during surgery in the setting of
   having nodal blocking [**Doctor Last Name **] and lasix held.
   .
   # CHF/Fluid Overload: Likely overdiuresed yesterday morning, as
   evidence by cold, clammy, mottled extremities and bump in creatinine.
   Responded well to fluid boluses as well as morphine for respiratory
   distress.
   - hold diuretics and fluids at this point and monitor I/O
   - contine digoxin
   - continue to monitor fluid and respiratory status
   - consider central access if we feel we need a better measurement of
   his fluid status
   - consider repeat echo to evaluate cardiac function
   .
   # Atrial Fibrillation: Tachycardia likely contributing to patient
   symptoms, resulting in poor forward flow and further fluid overload.
   - continue metoprolol for rate control, uptitrate as needed
   - no Coumadin for now; can consider this in 3 weeks (after neurosurg
   f/u)
   - attempt to touch base with neurosurgery re: anticoagulation
   .
   # CORONARIES: CAD s/p CABG. Pt denies any chest pain at this time.
   - No apparent h/o PCI, so can change Plavix to aspirin (if okay from
   neurosurgical perspective)
   - continue simvastatin, metoprolol
   .
   #  Acute on Chronic renal failure: Cr 2.1 today, recent baseline of
   1.2. Likely prerenal from poor forward flow with superimposed
   overdiuresis.
   - continue to trend creatinine
   - holding further diuresis, as above
   - consider urine lytes if creatinine does not improve
   .
   # DM: Fasting hypoglycemia has resolved with decreased insulin dosing.
   - continue insulin NPH + Humalog sliding scale at current dose
   .
   # Subdural Hematoma s/p Burrhole/Evacuation: Neurologic exam stable.
   - neuro checks q4 hrs
   - appreciate neuro sx input
   - neurosurg f/u in [**12-26**] weeks as outpatient
   - per neurosurg,  continue Keppra for total 7 days. Staples will come
   out after total 10 days
   - repeat head CTshowed residual acute hemorrhage. Per neurosurgery this
   is resolving and is not contributing to worsening apnea
   .
   # Sleep Apnea: BiBAP overnight and when napping
   ICU Care
   Nutrition: modified diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-2-6**] 07:29 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Ful
   Disposition: CCU
   ------ Protected Section ------
   CCU Attending
   I agree with the detailed note by Dr. [**Last Name (STitle) 9496**] delineated in her note
   on [**2109-2-8**].
   History and Physical.   I concur with the findings delineated in the
   history and physical examination.  I concur with the treatment plan
   outlined above.
   Medical Decision Making.  This 72 year old man s/p CABG, LVEF = 15%,
   biventricular pacemaker
 ICD and recent subdural hematoma evacuation
   developed volume overload which responded to initial diuresis, and two
   days ago developed hypotension and cool clammy extremities, which
   responded to fluid boluses.     He continues to require CPAP for
   oyxygenation (due to underlying sleep apnea).  Mental status still
   variable but his family reports that he has intermittent periods of
   being lucid.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2109-2-8**] 19:10 ------

2109-02-09 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - got agitated around midnight, settled down with reorientation
   - uptitrated metoprolol from 75TID to 100TID due to HR in 100s from 90s
   previously.
   -Neurosurgery felt that his worsening apnea was not related his
   subdural hematoma and stated that the [**Location (un) **] of a residual acute
   hemorrhage meant that it was resolving. They did not recommend any
   changes to his medications. If he did not have his multiple
   comorbidities the prognosis would have been full recovery to prior
   mental functioning before the subdural hematoma, however they were
   unable to prognosticate given his comorbid medical problems.
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2109-2-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2109-2-8**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-9**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 108 (93 - 115) bpm
   BP: 103/79(84) {91/56(53) - 134/96(112)} mmHg
   RR: 30 (10 - 42) insp/min
   SpO2: 95% on 5L NC
   Heart rhythm: V Paced
   Wgt (current): 11.6 kg (admission): 112.1 kg
                  Total In:
                                                                  1,960 mL
                  PO:
                                                                  1,260 mL
                  TF:
   IVF:
                                                                    700 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    270 mL
   Urine:
                                                                  1,045 mL
                                                                    270 mL
   NG:
   Stool:
   [**Location 14069**]3.3l
   Balance:
                                                                    915 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% 4lnc
   ABG: ///29/
   Physical Examination
   Oriented to person, disoriented to place and time, able to follow
   commands
   Continues to have [**Last Name (un) **] [**Doctor Last Name **] respirations which are briefer, perhaps
   30s
   Decreased BS right lower long Using accessory muscles to breath, less
   work of breathing, improved coloration, cap refill
   CVS:irregular
   Peripheral pulses palpable, extremities warm well perfused, no edema
   Concentrated urine.
   Staples in place on L scalp
   Labs / Radiology
   210 K/uL
   14.8 g/dL
   161 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   121 mg/dL
   100 mEq/L
   143 mEq/L
   48.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2109-2-5**]  02:34 PM
                             [**2109-2-6**]  02:05 AM
                             [**2109-2-6**]  01:35 PM
                             [**2109-2-6**]  02:57 PM
                             [**2109-2-7**]  04:30 AM
                             [**2109-2-7**]  09:27 AM
                             [**2109-2-7**]  09:57 PM
                             [**2109-2-8**]  04:02 AM
                             [**2109-2-9**]  02:51 AM
                             [**2109-2-9**]  03:03 AM
   WBC
   10.1
   10.7
   12.2
   11.6
   Hct
   42.3
   44.1
   49.6
   48.9
   Plt
   [**Telephone/Fax (3) 14067**]10
   Cr
   1.7
   1.6
   2.2
   2.1
   2.8
   2.6
   2.4
   TropT
   0.02
   0.04
   TCO2
   34
   31
   Glucose
   183
   99
   146
   113
   152
   85
   161
   Other labs: PT / PTT / INR:16.3/33.8/1.4, CK / CKMB /
   Troponin-T:60/2/0.04, ALT / AST:59/224, Alk Phos / T Bili:120/1.3,
   Differential-Neuts:67.1 %, Lymph:21.8 %, Mono:10.1 %, Eos:0.5 %, Lactic
   Acid:2.3 mmol/L, Albumin:3.8 g/dL, LDH:496 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.9 mg/dL, PO4:3.8 mg/dL
   Last CXR [**2109-2-7**] showed mild pulmonary edema, persistent RLL collapse.
   No Micro data
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, RESTRICTIVE
 SUBDURAL HEMORRHAGE (SDH)
   [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, RESTRICTIVE
 SUBDURAL HEMORRHAGE (SDH)
   72 year old man s/p CABG, LVEF = 15%, biventricular pacemaker
 ICD and
   recent subdural hematoma evacuation developed volume overload which
   responded to initial diuresis with subsequent hypotension and cool
   clammy extremities [**12-25**] overdiuresis which responded to fluid boluses.
   Pt continues to require CPAP (has underlying central sleep apnea) and
   has variable MS, with periods of lucidity.
   .
   # CHF/Fluid Overload:  Pt previously overdiuresed. Currently euvolemic.
   UOP improved to 40cc/hr without fluid boluses.
   [**Location 13954**] 3L, positive today almost 1L.  Improved perfusion as noted by
   improved coloration, shortened cheyn [**Doctor Last Name **],  improved renal function.
   Ideally mentation will improve as well.
   Keep even to slightl positive
holding fluid and diuretics.
   Continue digoxin.
   .
   # Atrial Fibrillation: Tachycardia likely contributing to patient
   symptoms, resulting in poor forward flow and further fluid overload.
   - More tachycardic with agitation.
   -continuing to need uptitration of metoprolol, currently at 100TID
   -continue to uptitrate metoprolol as needed vs uptitrating dig
   - no Coumadin for now; can consider this in 3 weeks (after neurosurg
   f/u)
   -continue ASA for now.
   .
   # CORONARIES: CAD s/p CABG. Pt denies any chest pain at this time.
   - No apparent h/o PCI, so changed Plavix to aspirin (if okay from
   neurosurgical perspective)
   - continue simvastatin, metoprolol
   .
   #  Acute on Chronic renal failure: Cr 2.4 today improved from peak of
   2.8 this admission, recent baseline of 1.2. Likely prerenal from poor
   forward flow with superimposed overdiuresis.
   - continue to trend creatinine
   - holding further diuresis, as above
   - consider urine lytes if creatinine does not improve
   .
   # DM: Fasting hypoglycemia has resolved with decreased insulin dosing.
   - continue insulin NPH + Humalog sliding scale at current dose
   .
   # Subdural Hematoma s/p Burrhole/Evacuation: Neurologic exam stable.
   - neuro checks q4 hrs
   - appreciate neuro sx input
   - neurosurg f/u in [**12-26**] weeks as outpatient
   - per neurosurg,  continue Keppra for total 7 days (2 to go). Staples
   will come out after total 10 days
   - repeat head CTshowed residual acute hemorrhage. Per neurosurgery this
   is resolving and is not contributing to worsening apnea
   .
   # Sleep Apnea: BiBAP overnight and when napping
   ICU Care
   Nutrition: limited p.o while on Bipap. P.o likely to improve with
   decreased agitation, less time on Bipap. [**Month (only) 51**] consider nutrition consult
   for calorie count.
   Glycemic Control:  NPH + humalog sliding scale
   Lines:
   20 Gauge - [**2109-2-6**] 07:29 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: Full
   Disposition: ICU for now
   ------ Protected Section ------
   CCU Attending
   I agree with the detailed note by Dr. [**Last Name (STitle) 9496**] delineated in her note
   on [**2109-2-9**].
   History and Physical.   I concur with the findings delineated in the
   history and physical examination.  I concur with the treatment plan
   outlined above.
   Medical Decision Making.  This 72 year old man s/p CABG, LVEF = 15%,
   biventricular pacemaker
 ICD and recent subdural hematoma evacuation
   developed volume overload which responded to initial diuresis, and two
   days ago developed hypotension and cool clammy extremities, which
   responded to fluid boluses.  He now appears euvolemic.  He has had
   increasing levels of apnea
 and it has been difficult to ascertain
   whether this is do to central or obstructive reasons.   We will ask
   neurologic input as to whether this is a central event and to help
   evaluate his recent changes in mental status.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2109-2-9**] 16:21 ------

2109-02-10 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   - neurology recs:
   - try ABG if PCO2 <38 = apneic threshold. Recommend CPAP, 02.
   continue keppra for now
   - consider routine EEG if fluctuations persist
   - repeat CT head for any focal changes in exam
   - gave 250 cc bolus overnight due to low urine output
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2109-2-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2109-2-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-10**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35
C (95
   HR: 85 (81 - 112) bpm
   BP: 98/77(82) {98/63(73) - 139/115(142)} mmHg
   RR: 41 (20 - 48) insp/min
   SpO2: 91%
   Heart rhythm: V Paced
   Wgt (current): 110 kg (admission): 112.1 kg
             Total In:
                                                                    160 mL
                                                                    250 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    100 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                     64 mL
   Urine:
                                                                    705 mL
                                                                     64 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -545 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   Oriented to person, disoriented to place and time, able to follow
   commands
   Continues to have [**Last Name (un) **] [**Doctor Last Name **] respirations which are briefer, perhaps
   30s
   Decreased BS right lower long Using accessory muscles to breath, less
   work of breathing, improved coloration, cap refill
   CVS:irregular
   Peripheral pulses palpable, extremities warm well perfused, no edema
   Concentrated urine.
   Staples in place on L scalp
   Labs / Radiology
   217 K/uL
   15.9 g/dL
   55 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.7 mEq/L
   137 mg/dL
   105 mEq/L
   147 mEq/L
   52.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2109-2-6**]  02:05 AM
                             [**2109-2-6**]  01:35 PM
                             [**2109-2-6**]  02:57 PM
                             [**2109-2-7**]  04:30 AM
                             [**2109-2-7**]  09:27 AM
                             [**2109-2-7**]  09:57 PM
                             [**2109-2-8**]  04:02 AM
                             [**2109-2-9**]  02:51 AM
                             [**2109-2-9**]  03:03 AM
                             [**2109-2-10**]  03:19 AM
   WBC
   10.1
   10.7
   12.2
   11.6
   10.6
   Hct
   42.3
   44.1
   49.6
   48.9
   52.6
   Plt
   [**Telephone/Fax (3) 14067**]10
   217
   Cr
   1.6
   2.2
   2.1
   2.8
   2.6
   2.4
   2.8
   TropT
   0.04
   TCO2
   34
   31
   Glucose
   99
   146
   113
   152
   85
   161
   55
   Other labs: PT / PTT / INR:18.8/38.8/1.7, CK / CKMB /
   Troponin-T:60/2/0.04, ALT / AST:64/185, Alk Phos / T Bili:126/1.4,
   Differential-Neuts:67.1 %, Lymph:21.8 %, Mono:10.1 %, Eos:0.5 %, Lactic
   Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:496 IU/L, Ca++:8.3 mg/dL,
   Mg++:3.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   72 year old man s/p CABG, LVEF = 15%, biventricular pacemaker
 ICD and
   recent subdural hematoma evacuation developed volume overload which
   responded to initial diuresis with subsequent hypotension and cool
   clammy extremities [**12-25**] overdiuresis which responded to fluid boluses.
   Pt continues to require CPAP (has underlying central sleep apnea) and
   has variable MS, with periods of lucidity.
   .
   # CHF/Fluid Overload:  Pt previously overdiuresed. Currently euvolemic.
   UOP improved to 40cc/hr without fluid boluses.
   [**Location 13954**] 3L, positive today almost 1L.  Improved perfusion as noted by
   improved coloration, shortened cheyn [**Doctor Last Name **],  improved renal function.
   Ideally mentation will improve as well.
   Keep even to slightl positive
holding fluid and diuretics.
   Continue digoxin.
   .
   # Atrial Fibrillation: Tachycardia likely contributing to patient
   symptoms, resulting in poor forward flow and further fluid overload.
   - More tachycardic with agitation.
   -continuing to need uptitration of metoprolol, currently at 100TID
   -continue to uptitrate metoprolol as needed vs uptitrating dig
   - no Coumadin for now; can consider this in 3 weeks (after neurosurg
   f/u)
   -continue ASA for now.
   .
   # CORONARIES: CAD s/p CABG. Pt denies any chest pain at this time.
   - No apparent h/o PCI, so changed Plavix to aspirin (if okay from
   neurosurgical perspective)
   - continue simvastatin, metoprolol
   .
   #  Acute on Chronic renal failure: Cr 2.4 today improved from peak of
   2.8 this admission, recent baseline of 1.2. Likely prerenal from poor
   forward flow with superimposed overdiuresis.
   - continue to trend creatinine
   - holding further diuresis, as above
   - consider urine lytes if creatinine does not improve
   .
   # DM: Fasting hypoglycemia has resolved with decreased insulin dosing.
   - continue insulin NPH + Humalog sliding scale at current dose
   .
   # Subdural Hematoma s/p Burrhole/Evacuation: Neurologic exam stable.
   - neuro checks q4 hrs
   - appreciate neuro sx input
   - neurosurg f/u in [**12-26**] weeks as outpatient
   - per neurosurg,  continue Keppra for total 7 days (2 to go). Staples
   will come out after total 10 days
   - repeat head CTshowed residual acute hemorrhage. Per neurosurgery this
   is resolving and is not contributing to worsening apnea
   .
   # Sleep Apnea: BiBAP overnight and when napping
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-2-9**] 08:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-02-11 07:37:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   24 Hour Events:
   - family would like transfer to hospital closer to home
   - got urine lytes
   - decreased bedtime insulin
   - gave an extra dose of trazodone
   Post operative day:
   POD#9 - burr holes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2109-2-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2109-2-10**] 09:43 PM
   Other medications:
   Flowsheet Data as of  [**2109-2-11**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.4
C (95.7
   HR: 93 (79 - 103) bpm
   BP: 122/83(90) {85/52(70) - 122/92(98)} mmHg
   RR: 25 (16 - 39) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 110 kg (admission): 112.1 kg
             Total In:
                                                                    800 mL
                                                                    500 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    440 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                    634 mL
                                                                    130 mL
   Urine:
                                                                    634 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    166 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Responds to voice but does not follow commands.
   CV: Irregular; No obvious murmur noted.
   Resp: CTA anteriorly.
   Abd: S/NT/ND; BS present
   Ext: No significant pitting edema noted. Warm extremities.
   Staples in place on L scalp
   Labs / Radiology
   175 K/uL
   16.3 g/dL
   208 mg/dL
   3.4 mg/dL
   24 mEq/L
   5.0 mEq/L
   156 mg/dL
   101 mEq/L
   143 mEq/L
   54.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2109-2-6**]  02:57 PM
                             [**2109-2-7**]  04:30 AM
                             [**2109-2-7**]  09:27 AM
                             [**2109-2-7**]  09:57 PM
                             [**2109-2-8**]  04:02 AM
                             [**2109-2-9**]  02:51 AM
                             [**2109-2-9**]  03:03 AM
                             [**2109-2-10**]  03:19 AM
                             [**2109-2-10**]  04:10 PM
                             [**2109-2-11**]  03:59 AM
   WBC
   10.7
   12.2
   11.6
   10.6
   10.6
   Hct
   44.1
   49.6
   48.9
   52.6
   54.1
   Plt
   [**Telephone/Fax (3) 14095**]17
   175
   Cr
   2.2
   2.1
   2.8
   2.6
   2.4
   2.8
   2.9
   3.4
   TropT
   0.04
   TCO2
   31
   Glucose
   146
   113
   152
   85
   161
   55
   179
   208
   Other labs: PT / PTT / INR:18.4/33.2/1.7, CK / CKMB /
   Troponin-T:60/2/0.04, ALT / AST:64/185, Alk Phos / T Bili:126/1.4,
   Differential-Neuts:67.1 %, Lymph:21.8 %, Mono:10.1 %, Eos:0.5 %, Lactic
   Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:496 IU/L, Ca++:9.1 mg/dL,
   Mg++:3.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   72 year old man s/p CABG, LVEF = 15%, biventricular pacemaker
 ICD and
   recent subdural hematoma evacuation developed volume overload which
   responded to initial diuresis with subsequent hypotension and cool
   clammy extremities [**12-25**] overdiuresis which responded to fluid boluses.
   Pt continues to require BIPAP (has underlying central sleep apnea) and
   has variable MS, with periods of lucidity.
   .
   # CHF/Fluid Overload:  Pt previously overdiuresed, now euvolemic to
   hypovolemic. Given small fluid boluses overnight [**12-25**] decreased UOP.
   - continue PRN small fluid challenges for oliguria
   - continue digoxin.
   .
   # Atrial Fibrillation: Tachycardia likely contributing to patient
   symptoms, resulting in poor forward flow and further fluid overload.
   Pt noted to be more tachycardic with agitation.
   - continue to uptitrate metoprolol as needed vs uptitrating dig
   - no Coumadin for now; can consider this in 3 weeks (after neurosurg
   f/u)
   - continue ASA for now.
   .
   # CORONARIES: CAD s/p CABG. Pt denies any chest pain at this time.
   - No apparent h/o PCI, so changed Plavix to aspirin
   - continue simvastatin, metoprolol
   .
   #  Acute on Chronic renal failure: Cr slightly continues to trend
   upward, now 3.4. Likely prerenal from poor forward flow with
   superimposed overdiuresis. Increased Hct also supports notion that
   patient is intravascularly volume-depleted.
   - continue to trend creatinine
   - continue small fluid boluses for oliguria
   .
   # Increased anion gap: Could be from lactic acidosis in setting of poor
   perfusion versus build-up of uremic toxins in setting of rising
   creatinine.
   - check venous lactate
   - small (250 cc) IV boluses as needed
   .
   # DM: Fasting hypoglycemia has resolved with decreased insulin dosing.
   Pt noted to have low AM blood sugars.
   - will decreased PM insulin dose
   .
   # Subdural Hematoma s/p Burrhole/Evacuation: Neurologic exam stable.
   - neuro checks q4 hrs
   - appreciate neuro sx input
   - neurosurg f/u in [**12-26**] weeks as outpatient
   - per neurosurg,  continue Keppra for total 7 days. Staples will come
   out after total 10 days
   - repeat head CTshowed residual acute hemorrhage. Per neurosurgery this
   is resolving and is not contributing to worsening apnea
   - can consider EEG, per neuro recs
   .
   # Sleep Apnea: BiBAP overnight and when napping
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-2-10**] 12:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely transfer to [**Location (un) 2408**] today.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 11131**] dated [**2109-2-11**].
   I would add the following remarks:
   Medical Decision Making
   D/C noted >30 min.  Patient to be transferred to [**Hospital 2408**] hospital
   today.  Will communicate directly with MD there since there are still
   open issues e.g. CHF, AF that require more management.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2109-2-11**] 16:45 ------